US04721815
A more complete dehydrogenation of a crude product mixture of the ketonic decarboxylative coupling of 3,4-dimethyl-3-cyclohexene carboxylic acid was accomplished by passing the crude product mixture over a 0.5 wt % platinum on alumina catalyst at a temperature of 385° C. This resulted in a 60 to 75% yield of 3,3',4,4'-tetramethylbenzophenone. The 3,4-dimethyl-3-cyclohexene carboxylic acid had been contacted with a 19 wt % MnO2 /Al2O3 catalyst at a temperature of about 360° C. and a pressure of about 15 psia for a contact time of about 7 sec.

reactant | 3,4-dimethyl-3-cyclohexene carboxylic acid | CC=1CC(CCC1C)C(=O)O | C9H14O2
catalyst | platinum on alumina | [Pt] | Pt
product | 3,3',4,4'-tetramethylbenzophenone | 60 to 75% yield | CC=1C=C(C(=O)C2=CC(=C(C=C2)C)C)C=CC1C | C17H18O
